US05580865
2-Benzyl-4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide (compound 10)
415 mg of 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide was dissolved in dimethyl sulphoxide (3 ml) and triethylamine (0.153 ml) and benzyl bromide (0.360 ml) were added. The reaction mixture was left overnight at room temperature, diluted with ethyl acetate, washed with a dilute solution of hydrochloric acid and eventually with brine. Drying over Na2SO4 and removal of the organic solvent left a residue which was then purified by flash chromatography affording the title compound as a white solid (270 mg).

reactant | 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | 415 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=S)(=O)=O)C2=NN=NN2C)C | C15H21N5O4S2
reactant | triethylamine | 0.153 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 0.360 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzyl-4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | 270 mg | C(C1=CC=CC=C1)C1(S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=S)(=O)=O)C2=NN=NN2C | C22H27N5O4S2
